* auto-generated runcell for O22AID2
.lib "$SPICE_LIB/sky130.lib.spice" tt
.include "$SPICE_DEVICES/devices.cir"
.include "o22aid2.cir"

.param pvdd=1.8V
VVPWR VDD 0 {pvdd}
V_GND VGND 0 0

V_A1 A1 0 PWL( 0ns 0 10ns 0 10.1ns {pvdd} 20ns {pvdd} 20.1ns 0 30ns 0 30.1ns {pvdd} 40ns {pvdd} 40.1ns 0 50ns 0 50.1ns {pvdd} 60ns {pvdd} 60.1ns 0 70ns 0 70.1ns {pvdd} 80ns {pvdd} 80.1ns 0 90ns 0 90.1ns {pvdd} 100ns {pvdd} 100.1ns 0 110ns 0 110.1ns {pvdd} 120ns {pvdd} 120.1ns 0 130ns 0 130.1ns {pvdd} 140ns {pvdd} 140.1ns 0 150ns 0 150.1ns {pvdd} 160ns {pvdd} )
V_A2 A2 0 PWL( 0ns 0 20ns 0 20.1ns {pvdd} 40ns {pvdd} 40.1ns 0 60ns 0 60.1ns {pvdd} 80ns {pvdd} 80.1ns 0 100ns 0 100.1ns {pvdd} 120ns {pvdd} 120.1ns 0 140ns 0 140.1ns {pvdd} 160ns {pvdd} )
V_B1 B1 0 PWL( 0ns 0 40ns 0 40.1ns {pvdd} 80ns {pvdd} 80.1ns 0 120ns 0 120.1ns {pvdd} 160ns {pvdd} )
V_B2 B2 0 PWL( 0ns 0 80ns 0 80.1ns {pvdd} 160ns {pvdd} )

X1 A1 A2 B1 B2 VGND VDD Y O22AID2
CL_Y Y VGND 0.1f

.control
tran 0.05n 160n
wrdata result.raw v(A1) v(A2) v(B1) v(B2) v(Y)
.endc
.end
